US08293768B2
Synthesis of N-(benzooxazol-2-ylmethyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with benzo[d]oxazol-2-ylmethanamine hydrochloride, the title compound was obtained as an off-white solid in 85% yield: 1H NMR (300 MHz, CDCl3) δ 7.74-7.68 (m, 1H), 7.56-7.49 (m, 1H), 7.40-7.24 (m, 4H), 7.09-6.99 (m, 2H), 6.50 (t, J=4.6 Hz, 1H), 6.14 (s, 1H), 4.88 (d, J=4.6 Hz, 2H), 4.44 (s, 2H), 3.85-3.76 (m, 2H), 3.49-3.39 (m, 2H), 2.53 (s, 3H); MS (ES+) m/z 465.2 (M+1), 487.2 (M+23).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | benzo[d]oxazol-2-ylmethanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)CN
product | N-(benzooxazol-2-ylmethyl)-5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxamide | 85% yield | O1C(=NC2=C1C=CC=C2)CNC(=O)C=2SC(=CC2C)N2C(N(CC2)CC2=CC=C(C=C2)F)=O | C24H21FN4O3S
